US05504056
6-acetoxymethyl-3-(4-chloro-2-nitrobenzoyl) tetrahydropyran-2,4-dione (Compound No. II-3)
To 7.7 ml of 25% acetic acid solution of hydrobromic acid was dissolved 2.40 g (5.7 mmole) of 6-benzyloxymethyl-3-(4-chloro-2-nitrobenzoyl)tetrahydropyran-2,4-dione, then this solution was reacted at room temperature for 5 hours. After the completion of the reaction, the mixture was poured into ice water, then extracted with chloroform. The organic solvent layer extracted was washed with water and saturated brine in turn, dried with magnesium sulfate, then the solvent was distilled therefrom. The residue obtained was purified by silica gel column chromatography to obtain 1.50 g of the objective product in a state of orange-coloured sticky oil.

reactant | hydrobromic acid | Br | BrH
reactant | 6-benzyloxymethyl-3-(4-chloro-2-nitrobenzoyl)tetrahydropyran-2,4-dione | 5.7 mmole, 2.40 g | C(C1=CC=CC=C1)OCC1CC(C(C(O1)=O)C(C1=C(C=C(C=C1)Cl)[N+](=O)[O-])=O)=O | C20H16ClNO7
reactant | acetic acid | 7.7 ml | C(C)(=O)O | C2H4O2
product | 6-acetoxymethyl-3-(4-chloro-2-nitrobenzoyl) tetrahydropyran-2,4-dione | 1.50 g | C(C)(=O)OCC1CC(C(C(O1)=O)C(C1=C(C=C(C=C1)Cl)[N+](=O)[O-])=O)=O | C15H12ClNO8
